US06939866B2
Sodium hydride (60% dispersion in mineral oil, 1.44 g) was added portionwise during 20 minutes to a solution of 7-benzyloxy-6-methoxy-3,4-dihydroquinazolinone (8.46 g) in DMF (70 ml) and the mixture was stirred for 1.5 hours. Chloromethyl pivalate (5.65 g) was added dropwise and the mixture was stirred at ambient temperature for 2 hours. The mixture was diluted with ethyl acetate (100 ml) and poured onto a mixture of ice and water (400 ml) containing 2N aqueous hydrochloric acid (4 ml). The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic extract was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated. The residue was triturated under a mixture of petroleum ether (b.p. 60-80° C.) and diethyl ether. The solid so obtained was isolated and dried under vacuum to give 7-benzyloxy-6-methoxy-3-pivaloyloxymethyl-3,4dihydroquinazolin-4-one (10 g); NMR Spectrum: (DMSOd6) 1.11 (s, 9H), 3.89 (s, 3H), 5.3 (s, 2H), 5.9 (s, 2H), 7.27 (s, 1H), 7.35 (m, 1H), 7.47 (t, 2H), 7.49 (d, 2H), 7.51 (s, 1H), 8.34 (s, 1H).

reactant | Sodium hydride | 1.44 g | [H-].[Na+]
reactant | 7-benzyloxy-6-methoxy-3,4-dihydroquinazolinone | 8.46 g | C(C1=CC=CC=C1)OC1=C(C=C2CNC(NC2=C1)=O)OC | C16H16N2O3
reactant | Chloromethyl pivalate | 5.65 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | hydrochloric acid | 2N, 4 ml | Cl | ClH
reactant | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 400 ml | O | H2O
product | 7-benzyloxy-6-methoxy-3-pivaloyloxymethyl-3,4dihydroquinazolin-4-one | 10 g | C(C1=CC=CC=C1)OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C22H24N2O5
